US08604033B2
According to Scheme 1 Step 10: A solution of N-(2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)thiazol-4-yl)pyridin-2-amine (0.39 mmol, 143 mg) in TFA (2 mL) was microwaved for 10 minutes at 120° C. The reaction mixture was neutralized with a solution of NaOH (1 M) and was extracted with DCM. The organic phase was dried over MgSO4, was filtered and was concentrated. The resulting crude product was purified by flash chromatography over silica gel using DCM/EtOH/NH3 (100:0:0 to 90:9:1) as eluent to yield 2-(1H-pyrazol-4-yl)-N-(pyridin-2-yl)thiazol-4-amine (0.24 mmol, 58 mg, 61%) as an orange solid.

reactant | N-(2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)thiazol-4-yl)pyridin-2-amine | 0.39 mmol, 143 mg | COC1=CC=C(CN2N=CC(=C2)C=2SC=C(N2)NC2=NC=CC=C2)C=C1 | C19H17N5OS
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(1H-pyrazol-4-yl)-N-(pyridin-2-yl)thiazol-4-amine | 0.24 mmol, 58 mg, 61% | N1N=CC(=C1)C=1SC=C(N1)NC1=NC=CC=C1 | C11H9N5S
